US04782050
1. 1-methylthiomethyl-2-hydroxymethylbenzimidazole
Using the procedure of Preparation C1, 14.8 g of 2-hydroxymethylbenzimidazole, 4.8 g of 50% sodium hydride in oil and 8.36 ml of chloromethyl methyl sulfide in 50 ml of dimethylformamide gave 8.3 g of product.

reactant | 2-hydroxymethylbenzimidazole | 14.8 g | OCC=1NC2=C(N1)C=CC=C2 | C8H8N2O
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | chloromethyl methyl sulfide | 8.36 ml | CSCCl | C2H5ClS
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-methylthiomethyl-2-hydroxymethylbenzimidazole | 8.3 g | CSCN1C(=NC2=C1C=CC=C2)CO | C10H12N2OS
